US08030499B2
Synthesis of (2S)-1-(5-chloro-3-(2-methoxyphenyl)-1-{[2-methoxy-4-(trifluoromethoxy)phenyl]sulfonyl}-2-oxo-2,3-dihydro-1H-indol-3-yl)-N,N-dimethylpiperidine-2-carboxamide (levorotatory isomer)
With 303 mg of (2S)-1-[5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-N,N-dimethylpiperidine-2-carboxamide, which is the compound described in Preparation 3.49 (Isomer B) of the brochure Publication No. WO01/98295 and 245 mg of 2-methoxy-4-(trifluoromethoxy)benzene sulfonyl chloride as starting materials, 216 mg of the title compound (colorless amorphous) was obtained by a similar method to Example 1.

reactant | (2S)-1-[5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-N,N-dimethylpiperidine-2-carboxamide | 303 mg | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)OC)N1[C@@H](CCCC1)C(=O)N(C)C | C23H26ClN3O3
reactant | 2-methoxy-4-(trifluoromethoxy)benzene sulfonyl chloride | 245 mg | COC1=C(C=CC(=C1)OC(F)(F)F)S(=O)(=O)Cl | C8H6ClF3O4S
product | (2S)-1-(5-chloro-3-(2-methoxyphenyl)-1-{[2-methoxy-4-(trifluoromethoxy)phenyl]sulfonyl}-2-oxo-2,3-dihydro-1H-indol-3-yl)-N,N-dimethylpiperidine-2-carboxamide | 216 mg | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC(F)(F)F)OC)=O)(C1=C(C=CC=C1)OC)N1[C@@H](CCCC1)C(=O)N(C)C | C31H31ClF3N3O7S
